US04176116
(ii) L-Alanyl-L-alanine ethylamide hydrobromide
7.5 g (0.023 mol) of N-benzyloxycarbonyl-L-alanyl-L-alanine ethylamide were stirred for 1 hour in 50 ml of 4-N hydrobromic acid in acetic acid. To the solution were added 300 ml of dry ether and, after stirring for a few minutes, the oil was allowed to settle and the ether decanted from the oil and discarded. The oil was then dissolved in methanol, the desired L-alanyl-L-alanine ethylamide hydrobromide crystallising out on the addition of ethyl acetate. The yield was 6.0 g (83%) and the melting point was 229°-231° C.; [α]D20 =-28.0° (c=1% in water).

reactant | N-benzyloxycarbonyl-L-alanyl-L-alanine ethylamide | 0.023 mol, 7.5 g | C(C)NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C)=O | C16H23N3O4
reactant | hydrobromic acid | Br | BrH
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-Alanyl-L-alanine ethylamide hydrobromide | Br.C(C)NC([C@@H](NC([C@@H](N)C)=O)C)=O | InChI=1S/C8H17N3O2.BrH/c1-4-10-8(13)6(3)11-7(12)5(2)9;/h5-6H,4,9H2,1-3H3,(H,10,13)(H,11,12);1H/t5-,6-;/m0./s1
